US07179801B2
A solution of 4-aminomethyl-1-propyl-5-aminopyrazole dihydrochloride (3.6 g) in a mixture of tetrahydrofuran (35 ml) and water (35 ml) was adjusted to pH 9 with saturated aqueous sodium carbonate solution, and then to the solution was added a solution of di-tert-butyl dicarbonate (6.92 g) in tetrahydrofuran (15 ml). The mixture was stirred for 1 hour maintaining the pH of the solution at pH 9 with saturated aqueous sodium carbonate solution. The reaction mixture was added to ethyl acetate and water. The aqueous layer was separated, and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo, and the residue was triturated with diisopropyl ether and dried in vacuo to give 4-tert-butoxycarbonylaminomethyl-1-propyl-5-aminopyrazole (2.21 g).

reactant | 4-aminomethyl-1-propyl-5-aminopyrazole dihydrochloride | 3.6 g | Cl.Cl.NCC=1C=NN(C1N)CCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 6.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | water | 35 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-tert-butoxycarbonylaminomethyl-1-propyl-5-aminopyrazole | 2.21 g | C(C)(C)(C)OC(=O)NCC=1C=NN(C1N)CCC | C12H22N4O2
